US08445687B2
N-methyl-4-(4-(2,2,2-trichlorochloroacetamido)phenoxy)picolinamide (25 g, 0.0644 mol) was dissolved in N,N-dimethyl formamide (75 ml). 1,8-Diazabicyclo[5.4.0]undec-7-ene (11.35 ml, 0.0805 mol) and 3-trifluoromethyl-4-chloroaniline (12.60 g, 0.0644 mol) were added in one lot. The reaction mass was then heated to 110° C. for 8-9 hours, cooled to room temperature and quenched in water (250 ml). The quenched mass was extracted repeatedly with ethyl acetate and the combined ethyl acetate layer was back washed with water to remove DMF traces. It was dried over sodium sulfate and evaporated under vacuum to obtain solid. The obtained solid was slurried in ethyl acetate (350 ml) at ambient temperature and filtered to give 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide (sorafenib base) (20 g).

reactant | N-methyl-4-(4-(2,2,2-trichlorochloroacetamido)phenoxy)picolinamide | 0.0644 mol, 25 g | CNC(C1=NC=CC(=C1)OC1=CC=C(C=C1)N(C(C(Cl)(Cl)Cl)=O)Cl)=O | C15H11Cl4N3O3
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.0805 mol, 11.35 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-trifluoromethyl-4-chloroaniline | 0.0644 mol, 12.60 g | FC(C=1C=C(N)C=CC1Cl)(F)F | C7H5ClF3N
solvent | N,N-dimethyl formamide | 75 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide | 20 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O)C(F)(F)F | C21H16ClF3N4O3
